US04849422
3-[4-(1,3-Thiazol-2-yl)piperazin-1-yl]propane-1,2-diol
Grams 6.4 of 1-(2,3-dihydroxypropyl)piperazine and 3.3 g of 2-bromo-1,3-thiazole in 50 ml dioxane were refluxed for 24 hours. The reaction mixture was evaporated to dryness and the so obtained residue was purified on column eluting with chloroform:methanol (9:1). Grams 1.5 of 3-[4-(1,3-thiazol-2-yl)piperazin-1-yl] propane-1,2-diol which, by recrystallization from acetone, melted at 138°-139° C., were obtained.

reactant | 1-(2,3-dihydroxypropyl)piperazine | OC(CN1CCNCC1)CO | C7H16N2O2
reactant | 2-bromo-1,3-thiazole | 3.3 g | BrC=1SC=CN1 | C3H2BrNS
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3-[4-(1,3-Thiazol-2-yl)piperazin-1-yl]propane-1,2-diol | S1C(=NC=C1)N1CCN(CC1)CC(CO)O | C10H17N3O2S
